US08278457B2
A solution of (1R,2S)-2-azidocyclohexyl 4-bromophenyl ether from the previous step (2.85 g, 9.62 mmol) in tetrahydrofuran (59 mL) and water (4.6 mL) was treated with polymer-supported triphenylphosphine (3 mmol/g, 7.87 g, 23.6 mmol). The reaction was stirred for 18 hours, then filtered through Celite®. The filter pad was rinsed with tetrahydrofuran (250 mL), then with ethyl acetate (400 mL), and the combined filtrates were concentrated in vacuo, and azeotroped with ethanol. The residue was purified by chromatography on silica gel (Gradient: 0% to 10% methanol in dichloromethane) to afford (1S,2R)-2-(4-bromophenoxy)cyclohexanamine as a yellow oil. Yield: 1.82 g, 6.74 mmol, 70%. 1H NMR (400 MHz, CDCl3) δ 1.33-1.55 (m, 4H), 1.66-1.75 (m, 3H), 2.00 (m, 1H), 2.07 (br s, 2H), 2.97 (m, 1H), 4.39 (m, 1H), 6.85 (d, J=9.0 Hz, 2H), 7.36 (d, J=9.0 Hz, 2H).

reactant | (1R,2S)-2-azidocyclohexyl 4-bromophenyl ether | BrC1=CC=C(C=C1)O[C@H]1[C@H](CCCC1)N=[N+]=[N-] | C12H14BrN3O
reactant | water | 4.6 mL | O | H2O
reactant | triphenylphosphine | 23.6 mmol, 7.87 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 59 mL | O1CCCC1 | C4H8O
product | (1S,2R)-2-(4-bromophenoxy)cyclohexanamine | BrC1=CC=C(O[C@H]2[C@H](CCCC2)N)C=C1 | C12H16BrNO
